US08252806B2
[2-(3,5-Dimethyl-pyrazol-1-yl)-quinazolin-4-yl]-(3-trifluoromethyl-phenyl)-amine (Compound B19)
Was prepared according to Method B from 2,4-dichloroquinazoline, 3-trifluoromethylaniline and 3,5-dimethylpyrazole. Mp. 233.1-239.6° C.

reactant | 2,4-dichloroquinazoline | ClC1=NC2=CC=CC=C2C(=N1)Cl | C8H4Cl2N2
reactant | 3-trifluoromethylaniline | FC(C=1C=C(N)C=CC1)(F)F | C7H6F3N
reactant | 3,5-dimethylpyrazole | CC1=NNC(=C1)C | C5H8N2
product | [2-(3,5-Dimethyl-pyrazol-1-yl)-quinazolin-4-yl]-(3-trifluoromethyl-phenyl)-amine | CC1=NN(C(=C1)C)C1=NC2=CC=CC=C2C(=N1)NC1=CC(=CC=C1)C(F)(F)F | C20H16F3N5
